US07674741B2
2-(Cyclohexyl-methyl-γ-butyrolactone
In a 250 mL autoclave a mixture of 2-benzyl-γ-butyrolactone (5.00 g) and Rh-catalyst (5 wt. % Rh on carbon, 0.500 g) in isopropanol (60 mL) was treated with hydrogen (13 bar) at 120° C. for 18 h. Upon completion of the hydrogenation, the mixture was filtered and concentrated on a rotary evaporator to give 4.75 g (92%) of the title compound.

reactant | 2-benzyl-γ-butyrolactone | 5.00 g | C(C1=CC=CC=C1)C1C(=O)OCC1 | C11H12O2
reactant | hydrogen | [H][H] | H2
reactant | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | Cyclohexyl-methyl-γ-butyrolactone | 4.75 g, 92% | C1(CCCCC1)C1(C(=O)OCC1)C | C11H18O2
